US06964966B2
1-Benzyl-3,3-dimethyl-4-piperidone 275 g (1.26 mol) prepared as per procedure described in U.S. Pat. No. 5,846,980, was dissolved in 1.0 L. methanol. The solution was transferred to a Parr reactor after adding 10% palladium on carbon (25 g). The reaction mixture was stirred under 300 psi hydrogen pressure at 60° C. until chromatography showed complete conversion. The reaction mixture was filtered and the residue washed with methanol (200 ml). The filtrate was concentrated to dryness to afford 3,3-dimethyl-4-piperidone (158 g) which was used as such for the preparation of either 4-benzyloxycarbonylamino-3,3-dimethylpiperidine or 4-t-butyloxycarbonylamino-3,3-dimethylpiperidine.

reactant | 1-Benzyl-3,3-dimethyl-4-piperidone | 1.26 mol, 275 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 25 g | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3,3-dimethyl-4-piperidone | 158 g | CC1(CNCCC1=O)C | C7H13NO
